US04539419
A mixture of 2 g of [[8-acetyl-7-[2-[2-(2-bromoethoxy)ethoxy]ethoxy]-2-naphthalenyl]oxy]acetic acid methyl ester, 1.0 g of 1-(2,4-dihydroxy-3-propylphenyl)ethanone and 0.9 g of anhydrous potassium carbonate in 40 ml of anhydrous acetone and 14 ml of anhydrous dimethylformamide was stirred at reflux for 16 hours. The solvent was removed in vacuo and residue was dissolved in ethyl acetate, washed with water, dried (magnesium sulfate) and concentrated in vacuo to give an oil which was purified by high pressure liquid chromatography (60% ethyl acetate-hexane) to yield 1.8 g (73%) of [[8-acetyl-7-[2-[2-[2-(4-acetyl-3-hydroxy-2-propylphenoxy)ethoxy]ethoxy]ethoxy]-2-naphthalenyl]oxy]acetic acid methyl ester as an oil.

reactant | [[8-acetyl-7-[2-[2-(2-bromoethoxy)ethoxy]ethoxy]-2-naphthalenyl]oxy]acetic acid methyl ester | 2 g | COC(COC1=CC2=C(C(=CC=C2C=C1)OCCOCCOCCBr)C(C)=O)=O | C21H25BrO7
reactant | 1-(2,4-dihydroxy-3-propylphenyl)ethanone | 1.0 g | OC1=C(C=CC(=C1CCC)O)C(C)=O | C11H14O3
reactant | potassium carbonate | 0.9 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 40 ml | CC(=O)C | C3H6O
solvent | dimethylformamide | 14 ml | CN(C=O)C | C3H7NO
product | [[8-acetyl-7-[2-[2-[2-(4-acetyl-3-hydroxy-2-propylphenoxy)ethoxy]ethoxy]ethoxy]-2-naphthalenyl]oxy]acetic acid methyl ester | 1.8 g, 73% | COC(COC1=CC2=C(C(=CC=C2C=C1)OCCOCCOCCOC1=C(C(=C(C=C1)C(C)=O)O)CCC)C(C)=O)=O | C32H38O10
